US08865698B2
To a methanol (1 mL) solution of (R)—N-(5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-6-methoxypicolinamide (10.1 mg, 0.0234 mmol) was added HCl as a solution is dioxane (30 μL). After 30 minutes, the reaction was concentrated to provide (R)—N-(5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-6-methoxypicolinamide hydrochloride as a yellow solid.

reactant | methanol | 1 mL | CO | CH4O
reactant | (R)—N-(5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-6-methoxypicolinamide | 0.0234 mmol, 10.1 mg | FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(C2=NC(=CC=C2)OC)=O | C23H21FN6O2
reactant | HCl | Cl | ClH
solvent | dioxane | 30 μL | O1CCOCC1 | C4H8O2
product | (R)—N-(5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-6-methoxypicolinamide hydrochloride | Cl.FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(C2=NC(=CC=C2)OC)=O | InChI=1S/C23H21FN6O2.ClH/c1-32-21-9-3-7-17(26-21)23(31)27-18-14-25-30-12-10-20(28-22(18)30)29-11-4-8-19(29)15-5-2-6-16(24)13-15;/h2-3,5-7,9-10,12-14,19H,4,8,11H2,1H3,(H,27,31);1H/t19-;/m1./s1
